US08236806B2
1-(2-fluorophenyl)-4-(3-(1-(4-methylphenyl)-3-propyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 167)
93 mg (59.7%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-(4-methylphenyl)-3-propyl-1H-pyrazol-5-yl)propanal (95 mg, 0.371 mmol), 1-(2-fluorophenyl)piperazine(76 mL, 0.482 mmol), and NaCNBH3 (70 mg, 1.112 mmol).

reactant | 3-(1-(4-methylphenyl)-3-propyl-1H-pyrazol-5-yl)propanal | 0.371 mmol, 95 mg | CC1=CC=C(C=C1)N1N=C(C=C1CCC=O)CCC | C16H20N2O
reactant | 1-(2-fluorophenyl)piperazine | 0.482 mmol, 76 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaCNBH3 | 1.112 mmol, 70 mg | [BH3-]C#N.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-(4-methylphenyl)-3-propyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC=C(C=C1)C)CCC | C26H33FN4
